US06756378B2
To a stirred solution of 4-bromo-2-fluorophenol (217 ul, 2.002 mmol), N-tert-butoxycarbonyl prolinol (403 mg, 2.002 mmol), and Ph3P (630 mg, 2.403 mmol) in THF (7 mL) was added DIAD (477 ul, 2.423 mmol) at room temp. The resulting mixture was stirred for 6 hr at room temp and then overnight at 70° C. The mixture was concentrated in vacuo and the residue was chromatographed on silica-gel with n-hexane-EtOAc (5:1, v/v) as eluent to give 549.4 mg (73%) 1-bromo-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3-fluorobenzene as an oil. 1H-NMR (400 MHz, CDCl3) δ1.46 (s, 9H), 1.85 (br m, 1H), 1.90-2.10 (br s, 3H), 3.30-3.47 (m, 2H), 3.85, 4.04 (br s each, 1H), 4.11-4.20 (m, 2H), 6.82-6.98 (m, 1H), 7.13-7.26 (m, 2H); MS (FAB) m/z 374 (M++1).

reactant | 4-bromo-2-fluorophenol | 2.002 mmol, 217 ul | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | N-tert-butoxycarbonyl prolinol | 2.002 mmol, 403 mg | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 2.403 mmol, 630 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.423 mmol, 477 ul | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 1-bromo-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy-3-fluorobenzene | 549.4 mg, 73% | BrC1=CC(=C(C=C1)OCC1N(CCC1)C(=O)OC(C)(C)C)F | C16H21BrFNO3
